US07981903B2
A solution of of 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (104 mg, 0.17 mmol) in methanol (10 mL) and THF (20 mL) was treated with a solution of sodium methoxide (0.5M in MeOH, 3.3 mL, 1.7 mmol). The resulting mixture was stirred at rt for 2 days, then diluted with EtOAc (100 mL) and a saturated NaCl solution. The organic layer was washed with a saturated NaHCO3 solution, concentrated onto Celite and purified by silica gel chromatography using 0-5% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-[(2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide as a yellow solid (63 mg, 81%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.13 (s, 3H), 3.09-3.19 (m, 2H), 3.78 (s, 3H), 4.06-4.15 (m, 2H), 6.23 (s, 1H), 6.88 (J=9.71 Hz, 9.34 Hz, 1H), 6.95 (s, 2H), 7.27-7.37 (m, 1H), 7.58 (s, 1H), 8.02 (s, 1H), 8.10 (s, 1H), 8.50 (d, J=8.42 Hz, 1H), 8.62 (s, 1H), 10.52 (s, 1H), 11.29 (s, 1H); ESIMS (M+H)+=475.99.

reactant | 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.17 mmol, 104 mg | C(C)(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC | C31H28FN7O5S
reactant | sodium methoxide | 1.7 mmol, 0.5M, 3.3 mL | C[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 63 mg, 81% | C(C)(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C(=CC=C2)F)OC | C24H22FN7O3
